US07348337B2
Preparation of 4-[1-Phenyl-1-(5-(N-(9-fluorenylmethoxycarbonyl)azetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester:
To a solution of 4-[1-phenyl-1-(2-(N-(9-fluorenylmethoxycarbonyl)-3-azetidinecarbonyl)-hydrazinocarbonyl)-methylene]-piperidine-1-carboxylic acid tert-butyl ester(0.411 g, 0.645 mmol), iPr2NEt (0.775 mL, 4.448 mmol) and PPh3 (0.693 g, 2.643 mmol) in CH3CN (8 mL) was added hexachloroethane (0.351 mg, 1.483 mmol). The mixture was allowed to stir for 1 h and then it was worked up as in Method A above and the crude product purified by flash chromatography (SiO2/EtOAc-hexane, 1:1) to give the title compound (0.299 g, 75%) as a colorless solid:

reactant | 4-[1-phenyl-1-(2-(N-(9-fluorenylmethoxycarbonyl)-3-azetidinecarbonyl)-hydrazinocarbonyl)-methylene]-piperidine-1-carboxylic acid tert-butyl ester | 0.645 mmol, 0.411 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C(=O)NNC(=O)C1CN(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C37H40N4O6
reactant | iPr2NEt | 4.448 mmol, 0.775 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PPh3 | 2.643 mmol, 0.693 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | hexachloroethane | 1.483 mmol, 0.351 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | CH3CN | 8 mL | CC#N | C2H3N
product | 4-[1-Phenyl-1-(5-(N-(9-fluorenylmethoxycarbonyl)azetidin-3-yl)-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester | 0.299 g, 75% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C1CN(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C37H38N4O5
